US09340527B2
To a solution of ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-4-carboxylate (6.5 g, 15.2 mmol) in ethanol (100 mL) was added concentrated HCl (13 mL) dropwise at 0° C. The reaction mixture was stirred at room temperature for 3 h. The mixture was neutralized by sat. NaHCO3 and the solvent was removed. Then the mixture was extracted with DCM (3×30 mL). The combined organic layers were washed by brine (30 mL), dried over Na2SO4 and concentrated to give crude product ethyl 1-((6-hydroxyquinolin-2-yl)methyl)piperidine-4-carboxylate as a white solid (3.9 g, yield: 80%). ESI-MS (M+H)+: 315.2. 1H NMR (400 MHz, CDCl3) δ: 7.88 (d, J=8.8 Hz, 1H), 7.83 (d, J=8.8 Hz, 1H), 7.53 (d, J=8.4 Hz, 1H), 7.22 (dd, J=9.2, 2.4 Hz, 1H), 7.04 (s, 1H), 4.11 (q, J=7.2 Hz, 2H), 3.80 (s, 2H), 2.93-2.90 (m, 2H), 2.28-2.16 (m, 3H), 1.89-1.76 (m, 4H), 1.22 (t, J=7.2 Hz, 3H).

reactant | ethyl 1-((6-((tert-butyldimethylsilyl)oxy)quinolin-2-yl)methyl)piperidine-4-carboxylate | 15.2 mmol, 6.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=NC2=CC1)CN1CCC(CC1)C(=O)OCC | C24H36N2O3Si
reactant | HCl | 13 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 1-((6-hydroxyquinolin-2-yl)methyl)piperidine-4-carboxylate | 3.9 g, yield: 80% | OC=1C=C2C=CC(=NC2=CC1)CN1CCC(CC1)C(=O)OCC | C18H22N2O3
